2167-06-25 06:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Chest Pain/ NSTEMI
   24 Hour Events: None
   Cath done yesterday: Three vessel coronary artery disease.
   Patent LIMA, all SVGs are occluded. Severe pulmonary hypertension.
   Elevated right sided filling pressures;  Decreased cardiac output;
   Elevated left sided filling pressures as measured by PCWP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-24**] 10:00 PM
   Ranitidine (Prophylaxis) - [**2167-6-25**] 12:00 AM
   Furosemide (Lasix) - [**2167-6-25**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies Chest Pain, SOB, Groin Pain
   Flowsheet Data as of  [**2167-6-25**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 64 (63 - 81) bpm
   BP: 100/61(70) {95/11(44) - 135/76(84)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                    580 mL
                                                                    120 mL
   PO:
                                                                    320 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    260 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    950 mL
   Urine:
   950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    580 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, left eyelid edematous
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Fixed)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar), Poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   144 K/uL
   11.8 g/dL
   58 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   36 mg/dL
   104 mEq/L
   134 mEq/L
   36.4 %
   11.7 K/uL
        [image002.jpg]
                             [**2167-6-24**]  08:19 PM
                             [**2167-6-25**]  04:24 AM
   WBC
   13.5
   11.7
   Hct
   34.4
   36.4
   Plt
   160
   144
   Cr
   1.6
   1.6
   TropT
   4.12
   Glucose
   102
   58
   Other labs: PT / PTT / INR:15.2/28.6/1.3, CK / CKMB /
   Troponin-T:1018/54/4.12, ALT / AST:41/146, Alk Phos / T Bili:98/1.2,
   Albumin:3.0 g/dL, LDH:824 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
 ASSESSMENT AND PLAN:  The patient is a 68 yo man with h/o CAD s/p
   CABG in [**2158**], HTN, and DM2, who presented for medical management s/p
   NSTEMI
   .
   # Coronary Artery Disease:  The patient presented with a 12 hour
   history of chest pain, elevated CEs, ST depressions in II, III, AVF,
   and V2-V4.  He was found to have occluded SV grafts to the OMs, and one
   of the grafts appeared to be acutely thrombosed.  The patient is not a
   surgical or PCI candidate, and thus it was determined that he will be
   optimally medically managed.
    - Start Metoprolol 12.5 mg [**Hospital1 **] and up-titrate as tolerated.
    - Continue ASA 325 mg daily and Plavix 75 mg daily
    - D/C Heparin gtt, as the patient already has an advanced thrombosis
    - TTE today
    - Start Atorvastatin 80 mg daily and check lipid panel.
    - Continue to monitor on telemetry
    - Consider restarting Lisinopril in the am
   .
   # Pump:  The patient does not have a history of CHF, but he had
   extremely high RA, PA, PCWP on cardiac catheterization.  His JVD was
   elevated on physical exam and he had a fixed split S2 (indicative of
   pulmonary hypertension).  He also has crackles on physical exam and a
   new productive cough, likely secondary to pulmonary edema.
    - Give Lasix 60 mg IV tonight for goal diuresis of 1 L
    - Continue to monitor UOP and Cr
    - CXR - Pending
    - TTE today to assess EF and wall motion abnormalities
   .
   # RHYTHM:  The patient presented in NSR; however, he has had runs of
   NSVT since admission to the CCU.  This is most likely a reperfusing
   rhythm.
    - Continue to monitor on tele.
   .
   # DM2: The patient has a history of DM2, for which he takes Glargine,
   Metformin, Glyburide, and 70/30 insulin at home.
    - Hold Metformin and Glyburide in the setting of recent contrast
   administration (FSBS in the low 100s)
    - Continue Glargine
    - FSBG and HISS
   .
   #. CKI:  The patient presented with Cr of 1.6, with an unknown baseline
   (0.8 in [**2158**]).  DDx includes pre-renal etiology (poor forward flow with
   low CI) v. underlying renal disease [**1-12**] DM2.
    - Check Urine lytes and U/A for sediment in the am
    - Continue to monitor Cr and UOP with diuresis.
   .
   # FEN: Regular, cardiac diet.  Replete K > 3.0 and Mg > 2.0
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   -DVT ppx with SQ Heparin
   -Pain management with Morphine prn
   -Bowel regimen with Colace and Senna
   .
   # CODE: Full (confirmed)
   .
   # COMM: With patient
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Comments: Cardiac diet
   Glycemic Control: Comments: HISS, Glargine per home dose
   Lines:
   20 Gauge - [**2167-6-24**] 05:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2167-06-25 08:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Chest Pain/ NSTEMI
   24 Hour Events: None
   Cath done yesterday: Three vessel coronary artery disease.
   Patent LIMA, all SVGs are occluded. Severe pulmonary hypertension.
   Elevated right sided filling pressures;  Decreased cardiac output;
   Elevated left sided filling pressures as measured by PCWP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-24**] 10:00 PM
   Ranitidine (Prophylaxis) - [**2167-6-25**] 12:00 AM
   Furosemide (Lasix) - [**2167-6-25**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies Chest Pain, SOB, Groin Pain
   Flowsheet Data as of  [**2167-6-25**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 64 (63 - 81) bpm
   BP: 100/61(70) {95/11(44) - 135/76(84)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                    580 mL
                                                                    120 mL
   PO:
                                                                    320 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    260 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    950 mL
   Urine:
   950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    580 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, left eyelid edematous
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Fixed)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar), Poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   144 K/uL
   11.8 g/dL
   58 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.5 mEq/L
   36 mg/dL
   104 mEq/L
   134 mEq/L
   36.4 %
   11.7 K/uL
        [image002.jpg]
                             [**2167-6-24**]  08:19 PM
                             [**2167-6-25**]  04:24 AM
   WBC
   13.5
   11.7
   Hct
   34.4
   36.4
   Plt
   160
   144
   Cr
   1.6
   1.6
   TropT
   4.12
   Glucose
   102
   58
   Other labs: PT / PTT / INR:15.2/28.6/1.3, CK / CKMB /
   Troponin-T:1018/54/4.12, ALT / AST:41/146, Alk Phos / T Bili:98/1.2,
   Albumin:3.0 g/dL, LDH:824 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
 ASSESSMENT AND PLAN:  The patient is a 68 yo man with h/o CAD s/p
   CABG in [**2158**], HTN, and DM2, who presented for medical management s/p
   NSTEMI.
   .
   # Coronary Artery Disease:  The patient presented with a 12 hour
   history of chest pain, elevated CEs, ST depressions in II, III, AVF,
   and V2-V4.  He was found to have occluded SV grafts to the OMs, and one
   of the grafts appeared to be acutely thrombosed.  The patient is not a
   surgical or PCI candidate, and thus it was determined that he will be
   optimally medically managed.
    - DC Metoprolol 12.5 mg [**Hospital1 **]
   -  Start Carvedilol 6.25mg [**Hospital1 **]
    - Continue ASA 325 mg daily and Plavix 75 mg daily
    - D/C Heparin gtt, as the patient already has an advanced thrombosis
    - TTE today
    - Start Atorvastatin 80 mg daily and check lipid panel.
    - Continue to monitor on telemetry
    - Consider restarting Lisinopril in the am
   .
   # Pump:  The patient does not have a history of CHF, but he had
   extremely high RA, PA, PCWP on cardiac catheterization.  His JVD was
   elevated on physical exam and widened split S2 which may be secondary
   to LBBB in setting of increased pulmonary HTN.   He also has crackles
   on physical exam and a new productive cough, likely secondary to
   pulmonary edema.
    - Give Lasix 60 mg IV tonight for goal diuresis of 1 L
    - Continue to monitor UOP and Cr
    - CXR - Pending
    - TTE today to assess EF and wall motion abnormalities
   .
   # RHYTHM:  The patient presented in NSR; however, he has had runs of
   NSVT since admission to the CCU.  This is most likely a reperfusing
   rhythm.
    - Continue to monitor on tele.
   .
   # DM2: The patient has a history of DM2, for which he takes Glargine,
   Metformin, Glyburide, and 70/30 insulin at home.
    - Hold Metformin and Glyburide in the setting of recent contrast
   administration (FSBS in the low 100s)
    - Continue Glargine
    - FSBG and HISS
   .
   #. CKI:  The patient presented with Cr of 1.6, with baseline of 1.3.
   DDx includes pre-renal etiology (poor forward flow with low CI) v.
   underlying renal disease [**1-12**] DM2.
    - Check Urine lytes and U/A for sediment in the am
    - Continue to monitor Cr and UOP with diuresis.
   .
   # FEN: Regular, cardiac diet.  Replete K > 3.0 and Mg > 2.0
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   -DVT ppx with SQ Heparin
   -Pain management with Morphine prn
   -Bowel regimen with Colace and Senna
   - Ulcer Prevention: Start PPI, Give at different time than plavix.
   .
   # CODE: Full (confirmed)
   .
   # COMM: With patient
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Comments: Cardiac diet
   Glycemic Control: Comments: HISS, Glargine per home dose
   Lines:
   20 Gauge - [**2167-6-24**] 05:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:  PPI, GI Cocktail
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Stable overnight.  Medical management of CHF as detailed above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2167-6-25**] 11:26 ------

2167-06-26 06:50:00 Physician Resident Progress Note
TITLE: CCU RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   - Episode of chest pain at 1900. Pain [**4-19**] similar to prior. EKG
   without significant change. 2mg Morphine/ (2) 0.3mg sl nitro pain
   decreased pain. - CK: 1358 to 1018 to 677(during acute pain)
   - Another episode of chest pressure at 0430, different than prior pain;
   2 SLNG given and pressure subsided;
   - This AM still complaining of some chest pressure
   - Lantus decreased from 65 to 50. Lantus held- FSBS: 43 (08:00 [**6-25**]) 77
   (02:00 [**6-26**]) 96-190 for rest of 24 hours
   - Held Lantus dose last night given low blood sugar this AM and poor PO
   intake during the day
   - Out approx 100 cc after 60 IV lasix; (First dose overnight [**6-25**]-
   1500cc)
   - Lytes (5pm) Cr bumped to 2.0 from 1.6. K+4.4, Mag: 1.9, Lasix held.
   - Low BP: metoprolol in 08:00 [**6-25**], Coreg given 10:00 [**6-25**], blood
   pressure decreased about 2 hours after Coreg given
   - TTE with mild LVH, [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] size, severe regional LV dysfunction
   consistent with multivessel CAD with mild to moderate MR. [**First Name (Titles) 5627**]
[**Last Name (Titles) 7765**], Anterior, Lateral and Apical hypokinesis/akinesis. EF 15 - 20%.
   - CXR: Lung parenchyma is nl, no pleural eff, no pneumonia
   - Lipid Panel: Total: 142  Triglycerides: 71  HDL: 39  LDL: 89
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2167-6-25**] 02:00 PM
   Morphine Sulfate - [**2167-6-25**] 07:30 PM
   Pantoprazole (Protonix) - [**2167-6-25**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2167-6-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Chest Pressure/ Denies SOB
   Flowsheet Data as of  [**2167-6-26**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 67 (62 - 68) bpm
   BP: 97/66(74) {77/45(55) - 102/76(80)} mmHg
   RR: 26 (14 - 27) insp/min
   SpO2: 98% on 2L
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.3 kg (admission): 75.4 kg
   Height: 69 Inch
                  Total In:
                                                                    750 mL
                                                                    150 mL
   PO:
                                                                    700 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    100 mL
   Urine:
                                                                  1,200 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -450 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL,
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Fixed); JVP 15cm (mid-neck)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present) All 1+
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar at bases), Poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+ edema
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   151 K/uL
   11.5 g/dL
   116 mg/dL
   2.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   43 mg/dL
   98 mEq/L
   133 mEq/L
   35.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2167-6-24**]  08:19 PM
                             [**2167-6-25**]  04:24 AM
                             [**2167-6-25**]  04:45 PM
                             [**2167-6-25**]  08:08 PM
                             [**2167-6-26**]  04:36 AM
   WBC
   13.5
   11.7
   10.6
   Hct
   34.4
   36.4
   35.2
   Plt
   160
   144
   151
   Cr
   1.6
   1.6
   2.0
   2.0
   TropT
   4.12
   3.52
   4.16
   Glucose
   102
   58
   214
   116
   Other labs: PT / PTT / INR:14.6/32.4/1.3, CK / CKMB /
   Troponin-T:562/23/4.16, ALT / AST:38/73, Alk Phos / T Bili:101/1.0,
   Albumin:3.0 g/dL, LDH:824 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  The patient is a 68 yo man with h/o CAD s/p CABG
   in [**2158**], HTN, and DM2, who presented for medical management s/p NSTEMI.
   .
   # Coronary Artery Disease:  The patient presented with a 12 hour
   history of chest pain, elevated CEs, ST depressions in II, III, AVF,
   and V2-V4.  He was found to have occluded SV grafts to the OMs, and one
   of the grafts appeared to be acutely thrombosed.  The patient is not a
   surgical or PCI candidate, and thus it was determined that he will be
   optimally medically managed. Episodes of chest pain are concerning that
   medical management may not be enough, and enzymes are trending up.  At
   this point troponin has increased more than 20% since yesterday
   morning, and therefore he has likely had another infarct.
   - Will continue to diurese with Lasix (bolus first, then gtt)
 will
   start with 60mg IV Lasix bolus and then Lasix gtt 5mg/hr in order to
   reduce preload
   - If he does not fully respond to Lasix, will add long acting Nitro as
   patient has complained of chest pressure/pain 3 times in past 24 hours
   - Continue Carvedilol 6.25 mg [**Hospital1 **] (changed from metoprolol 12.5 [**Hospital1 **]),
   hold for MAP<65
   - Continue ASA 325 mg daily and Plavix 75 mg daily
   - Will change Atorvastatin 80 mg daily to another statin as patient as
   complained of leg swelling in past
 will change to Pravastatin 20mg po
   daily
   - Continue to monitor on telemetry
   - Consider Surgery consult, but re-operation would be a very high risk
   surgery in this patient and medical management seems more appropriate
   at this time
   .
   # Pump:  The patient does not have a history of CHF, but he had
   extremely high RA, PA, PCWP on cardiac catheterization.  His JVD was
   elevated on physical exam and widened split S2 which may be secondary
   to LBBB in setting of increased pulmonary HTN.   Patient is not as
   fluid overloaded as yesterday as LE edema has improved as well as JVD,
   but continues to have crackles on physical exam and a cough, likely
   secondary to pulmonary edema.  His EF was 15-20% on recent TTE, and he
   likely needs continued diuresis to reduce preload.
    - Will continue to diurese as above
   -  Consider fluid restriction
    - Continue to monitor UOP and Cr
    - CXR - nml
    .
   # RHYTHM:  The patient presented in NSR; however, he has had runs of
   NSVT since admission to the CCU, last run [**6-25**] at 2300 less than 10
   beats.  This is most likely a reperfusing rhythm. Patient remained
   asymptomatic.
    - Continue to monitor on tele.
   .
   # ANTICOAGULATION: Patient with apical hypokinesis and at risk for
   blood pooling and clot formation.
   - Start heparin drip now
   - Start him on po coumadin and track INR to therapeutic 2.0-3.0
   - Will guaiac his stool to check for GI bleeds
   #DM2: The patient has a history of DM2, for which he takes Glargine,
   Metformin, Glyburide, and 70/30 insulin at home.
    - Hold Metformin and Glyburide in the setting of recent contrast
   administration (FSBS in the low 100s)
    - Hold Glargine for 12 horus and continue sliding scale.  Will give
   him evening dose of Glargine, likely will be a percentage of 50 units.
   Will calculate insulin needs from sliding scale use today.
    - FSBG and HISS
    - Encourage PO intake
   .
   #. Acute on CKI:  The patient presented with Cr of 1.6, with baseline
   of 1.3.  DDx includes pre-renal etiology (poor forward flow with low
   CI) v. underlying renal disease [**1-12**] DM2.
    - Continue to monitor Cr and UOP with diuresis.
   # Social Issues: Will call social work to see patient and discuss
   .
   ICU Care
   Nutrition:
   Comments: Cardiac diet
   Glycemic Control: Comments: HISS, Glargine per home dose
   Lines:
   20 Gauge - [**2167-6-24**] 05:39 PM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer:  PPI, GI Cocktail
   VAP:
   Comments: OOB as tolerated
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 359**].
   I would add the following remarks:
   Medical Decision Making
   [**Hospital 7780**] medical therapy for CAD and CHF.  Will medically manage
   through this episode of recurrent chest pain and recurrent MI given
   lack of revascularization options.  Will determine of apical
   hypokinesis is new or not and determine whether to use longterm
   anticoagulation or not for this. Patient care time 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2167-6-26**] 09:33 ------

2167-06-27 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2167-6-27**] 02:00 AM
   With complaints of eye pain and leg pain overnight, given tylenol with
   substandard relief.  Also with hypotension to SBP 60's after receiving
   Coreg 3.125.  Holding Lasix until SBP>90.
   - Speech/Swallow said he is coughing while eating, but also coughing at
   other times.  ?GERD cough vs stricture? Recommended soft and thin diet,
   and if he's still here on Monday, can do a video swallow study.
   - Complained of cough overnight, given tessalon perles as that has
   helped him in the past
   - Switched to pravastatin 40mg po daily
   - Given Lasix bolus and gtt - put out 400 in first hour then nothing,
   so increased dose to 10mg/hr - put out 250 in first hour (patient
   wearing condom cath, so urinating in spurts)
   - 2pm lytes showed Cr 1.9 (down from 2.0 in the am)
   - Carvedilol decreased to 3.125mg po bid
   - Sugars 77-160's, decided to d/c glargine dose b/c only requiring 4
   units of insulin sliding scale a day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2167-6-26**] 01:00 PM
   Pantoprazole (Protonix) - [**2167-6-26**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2167-6-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-27**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 58 (57 - 75) bpm
   BP: 93/59(67) {76/52(43) - 107/73(79)} mmHg
   RR: 21 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 80 kg (admission): 75.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,198 mL
                                                                    123 mL
   PO:
                                                                  1,110 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     88 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    300 mL
   Urine:
                                                                  1,450 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -252 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP
   FiO2: 35%
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL,
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Fixed); JVP 18cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present) All 1+
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar at bases), Poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+ edema
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   151 K/uL
   11.5 g/dL
   136 mg/dL
   1.9 mg/dL
   23 mEq/L
   4.1 mEq/L
   45 mg/dL
   98 mEq/L
   131 mEq/L
   35.2 %
   10.6 K/uL
        [image002.jpg] : Other Urine Chemistry UreaN:380 Creat:57 Na:44
   Other Urine Counts
   Eos: Negative No Eos Seen
                             [**2167-6-24**]  08:19 PM
                             [**2167-6-25**]  04:24 AM
                             [**2167-6-25**]  04:45 PM
                             [**2167-6-25**]  08:08 PM
                             [**2167-6-26**]  04:36 AM
                             [**2167-6-26**]  03:49 PM
   WBC
   13.5
   11.7
   10.6
   Hct
   34.4
   36.4
   35.2
   Plt
   160
   144
   151
   Cr
   1.6
   1.6
   2.0
   2.0
   1.9
   TropT
   4.12
   3.52
   4.16
   4.43
   4.18
   Glucose
   102
   58
   [**Telephone/Fax (3) 7806**]
   Other labs: PT / PTT / INR:14.6/32.4/1.3, CK / CKMB /
   Troponin-T:475/16/4.18, ALT / AST:38/73, Alk Phos / T Bili:101/1.0,
   Albumin:3.0 g/dL, LDH:824 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.4
   mg/dL
   FSBS: 124, 77, 96, 107, 161,167; (77-167)
   Assessment and Plan
   ASSESSMENT AND PLAN:  The patient is a 68 yo man with h/o CAD s/p CABG
   in [**2158**], HTN, and DM2, who presented for medical management s/p NSTEMI.
   .
   # Coronary Artery Disease:  The patient presented with a 12 hour
   history of chest pain, elevated CEs, ST depressions in II, III, AVF,
   and V2-V4.  He was found to have occluded SV grafts to the OMs, and one
   of the grafts appeared to be acutely thrombosed.  The patient is not a
   surgical or PCI candidate, and thus it was determined that he will be
   optimally medically managed..  At this point troponin has increased
   more than 20% yesterday, and therefore he has likely had another
   infarct. Currently, has not had an episode of chest pain in the past 24
   hours. Will continue to monitor as he is stable and enzymes trending
   down, with last troponin T 4.18 which has decreased from 4.38 in the
   prior set.
   - Will continue to diurese with Lasix gtt
 will increase to 20mg/hr
   and aim for negative 1-2L today
   - Will hold ACE-I
   - Stop carvedilol in favor of metoprolol 12.5mg TID in order to
   increase BP
   - When BP stabilizes, will start him on a nitrate (short acting Isordil
   10mg po tid) to improve collateral flow in his coronaries
   - Start digoxin 0.25mg po x 2 today, and then 0.125mg po daily
   - Continue ASA 325 mg daily and Plavix 75 mg daily
   - Continue Pravastatin 40 mg daily -> continue to monitor for adverse
   reactions of leg pain, increased CK
   - Continue to monitor on telemetry
   .
   # Pump:  The patient is slightly fluid overloaded with some improvement
   of his LE edema has improved as well as JVD, but continues to have
   crackles on physical exam and a cough, likely secondary to pulmonary
   edema.  His EF was 15-20% on recent TTE, and he likely needs continued
   diuresis to reduce preload.
    - Will continue to diurese as above
   - Start digoxin, metoprolol as above
   -  Consider fluid restriction
    - Continue to monitor UOP and Cr
   .
   # RHYTHM:  The patient presented in NSR; however, he has had runs of
   NSVT since admission to the CCU, last run [**6-25**] at 2300 less than 10
   beats.  This is most likely a reperfusing rhythm. Patient remains
   asymptomatic. Continues to have sinus rhythm with pvcs.
    - Continue to monitor on tele.
   .
   # ANTICOAGULATION: Patient with apical hypokinesis and at risk for
   blood pooling and clot formation. Since patient has had akinesis
   recorded on echo in [**2158**], will not anticoagulate at this time as
   patient is at lower risk in the chronic state.
   -          Hold for now
   -          Guaiac stools next bowel movement
   #DM2: The patient has a history of DM2, for which he takes Glargine
   (65U), Metformin, Glyburide, and 70/30 insulin at home.
    - Hold Metformin and Glyburide in the setting of recent contrast
   administration (FSBS in the low 100s)
    - Monitor blood sugar today and consider giving glargine this evening
   as patient may need basal coverage.
    - FSBG and HISS
    - Encourage PO intake
   .
   #. Acute on CKI:  The patient presented with Cr of 1.6, with baseline
   of 1.3.  Likely pre-renal etiology (poor forward flow with low CI);
   based on BUN/Cr ratio >20/1 and FeUn = 28.15%; Also with a history of
   intrinsic chronic renal disease as patient has long standing diabetes
   and hypertension.
   -          Continue to monitor Cr and UOP with diuresis.
   -          Continue Lasix gtt as patient is fluid overloaded and
   # Swallow: Patient had swallow consult and they felt he would benefit
   from soft and thin diet.  Possible video swallow study on Monday.
   # Social Issues: Social work working on rehab for him
   .
   ICU Care
   Nutrition:
   Comments: Cardiac diet
   Glycemic Control: Comments: HISS, Glargine per home dose
   Lines:
   20 Gauge - [**2167-6-24**] 05:39 PM
   Prophylaxis:
   DVT: Sub Q heparin
   Stress ulcer:  PPI, GI Cocktail
   VAP:  Head of bed > 30 degrees
   Comments: OOB as tolerated
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Will add standing nitrate therapy in hope of increasing collateral flow
   from lima-lad (which is the only source of coronary perfusion)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2167-6-27**]
   11:17 ------

2167-06-28 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Changed coreg to metoprolol
   - Lasix gtt started 1000 at 20 mg/hr -> Stopped at 2300 b/c of
   increased output and pressures were 74/46
   ;
   - Digoxin started yesterday 0.25 mg x 2 today and starting .125 mg
   daily starting today
   - Started Isordil 10 mg TID
   - BS elevated throughout day. Continued ISS and started 25 lantus. Will
   check a 3 AM glucose was 184
   C/o Left arm numbness and coldness with nausea; given 2 [**Last Name (LF) 7825**], [**First Name3 (LF) 119**]
   early, EKG unchanged since previous with ST depression in II, III, AvF
   and V4,-V6
   CPAP used overnight due to desaturating and apnic episodes; Patient
   tolerated fine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-28**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, SOB
   Flowsheet Data as of  [**2167-6-28**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 70 (61 - 72) bpm
   BP: 112/66(78) {74/23(47) - 112/76(80)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 75.4 kg
   Height: 69 Inch
                  Total In:
                                                                    685 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    205 mL
   Blood products:
   Total out:
                                                                  3,030 mL
                                                                  1,315 mL
   Urine:
                                                                  3,030 mL
                                                                  1,315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,345 mL
                                                                 -1,315 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, Anxious; holding his left arm
   Eyes / Conjunctiva: PERRL,
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Fixed); JVP 15cm
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: clear),
   Poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+ edema; warm and dry
   Skin:  Not assessed
   Neurologic: Attentive, , Oriented (to): person, place, time, Movement:
   Not assessed, Tone: 5/5 strength in both arms/hands; left was slightly
   weaker than right on hand squeeze;  No focal neurological deficits
   noted
   Labs / Radiology
   165 K/uL
   11.2 g/dL
   178 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   43 mg/dL
   98 mEq/L
   131 mEq/L
   33.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2167-6-24**]  08:19 PM
                             [**2167-6-25**]  04:24 AM
                             [**2167-6-25**]  04:45 PM
                             [**2167-6-25**]  08:08 PM
                             [**2167-6-26**]  04:36 AM
                             [**2167-6-26**]  03:49 PM
                             [**2167-6-27**]  05:34 AM
                             [**2167-6-27**]  08:00 AM
                             [**2167-6-27**]  05:45 PM
                             [**2167-6-28**]  04:10 AM
   WBC
   13.5
   11.7
   10.6
   8.3
   Hct
   34.4
   36.4
   35.2
   33.5
   Plt
   160
   144
   151
   165
   Cr
   1.6
   1.6
   2.0
   2.0
   1.9
   2.1
   2.0
   1.7
   TropT
   4.12
   3.52
   4.16
   4.43
   4.18
   4.39
   3.94
   Glucose
   102
   58
   [**Telephone/Fax (3) 7806**]
   140
   159
   232
   178
   Other labs: PT / PTT / INR:14.6/32.4/1.3, CK / CKMB /
   Troponin-T:256/8/3.94, ALT / AST:38/73, Alk Phos / T Bili:101/1.0,
   Albumin:3.0 g/dL, LDH:824 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  The patient is a 68 yo man with h/o CAD s/p CABG
   in [**2158**], HTN, and DM2, who presented for medical management s/p NSTEMI.
   .
   #Left arm numbness: Unsure of etiology; Neurological vs. Cardiac vs.
   musculoskeletal;
   -          Neuro: no focal deficits found, but cannot exclude TIA; gave
   [**Year (4 digits) 119**] early and will continue to monitor
                              Also, patient slep with CPAP overnight and
   may have impinged a nerve as distribution was felt to be
                              dermatomal in origin
   -          Cardiac: Atypical presentation for ACS; 2 [**Year (4 digits) 7825**] helped his
   nausea, but not his arm numbness; ekg unchanged and cardiac enzymes
   pending;
   -          Will continue to monitor
   # Coronary Artery Disease:  The patient presented with a 12 hour
   history of chest pain, elevated CEs, ST depressions in II, III, AVF,
   and V2-V4.  He was found to have occluded SV grafts to the OMs, and one
   of the grafts appeared to be acutely thrombosed.  The patient is not a
   surgical or PCI candidate, and thus it was determined that he will be
   optimally medically managed..  Had a troponin increase of more than 20%
   Friday, and likely had another infarct. Currently, has not had an
   episode of chest pain in the past 24 hours. Now with left arm
   numbness/pain
   - Will continue to diurese with Lasix gtt
 Will transition to Lasix
   bolus as patient appears to be less fluid overloaded today
   - Will hold ACE-I  as patient has Acute on Chronic KD
   - Continue carvedilol in favor of metoprolol 12.5mg TID in order to
   increase BP
   - Continue Isordil 10mg po tid to improve collateral flow in his
   coronaries
   - Continue Digoxin 0.125mg po daily
   - Continue [**Year (4 digits) 119**] 325 mg daily and Plavix 75 mg daily
   - Continue Pravastatin 40 mg daily -> continue to monitor for adverse
   reactions of leg pain, increased CK
   - Continue to monitor on telemetry
   .
   # Pump:  The patient is slightly fluid overloaded with some improvement
   of his LE edema has improved as well as JVD, but continues to have
   crackles on physical exam and a cough, likely secondary to pulmonary
   edema.  His EF was 15-20% on recent TTE, and he likely needs continued
   diuresis to reduce preload.
    - Will continue to diurese as above
   - continue digoxin, metoprolol as above
   -  Continue fluid restriction
    - Continue to monitor UOP and Cr
   .
   # RHYTHM:  The patient presented in NSR; however, he has had runs of
   NSVT since admission to the CCU, last run [**6-25**] at 2300 less than 10
   beats.  This is most likely a reperfusing rhythm. Patient remains
   asymptomatic. Continues to have sinus rhythm with pvcs.
   -          Continue to monitor on tele.
   -          Replete K this AM
   .
   # ANTICOAGULATION: Patient with apical hypokinesis and at risk for
   blood pooling and clot formation. Since patient has had akinesis
   recorded on echo in [**2158**], will not anticoagulate at this time as
   patient is at lower risk in the chronic state.
   -          Hold for now
   -          Guaiac stools next bowel movement
   #DM2: The patient has a history of DM2, for which he takes Glargine
   (65U), Metformin, Glyburide, and 70/30 insulin at home.
    - Hold Metformin and Glyburide in the setting of recent contrast
   administration
    - Monitor BS and continue glargine 25 units for now. If BS is well
   above 250 throughout the day consider increasing the glargine dose to
   30 units qhs
    - FSBG and HISS
    - Encourage PO intake
   .
   #. Acute on CKI:  Cr of 1.7 this AM, with baseline of 1.3.  Likely
   pre-renal etiology (poor forward flow with low CI); based on BUN/Cr
   ratio >20/1 and FeUn = 28.15%; Also with a history of intrinsic chronic
   renal disease as patient has long standing diabetes and hypertension.
   Today improved Cr from 47/2.0 -> 43/1.7 likely secondary to diuresis
   -          Continue to monitor Cr and UOP with diuresis.
   -          Lasix gtt delivered approximately 160 mg lasix; consider 80
   mg PO BID
   # Dysphagia: Patient noted to be choking on food; concern for dysphagia
   and aspiration
     -      Patient had swallow consult and they felt he would benefit
   from soft and thin diet.  Possible video swallow study on Monday.
   # Social Issues: Social work working on rehab for him
   ICU Care
   Nutrition:
   Comments: Cardiac diet
   Glycemic Control: Comments: HISS, Glargine 25 units
   Lines:
   20 Gauge - [**2167-6-24**] 05:39 PM
   Prophylaxis:
   DVT: Sub Q heparin
   Stress ulcer:  PPI, GI Cocktail
   VAP:  Head of bed > 30 degrees
   Comments: OOB as tolerated
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU